US05260307
2.3 g of p-nitro-D-phenylalanine are suspended in 25 ml of dioxan and treated with 10 ml of 1N sodium hydroxide solution and 1.7 g of sodium bicarbonate. A solution of 2.6 g of methyl 2-chlorosulfonylbenzoate in 22 ml of dioxanl is added dropwise thereto and the mixture is stirred at room temperature for 9 hours. The reaction mixture is poured into ice-cold 2N hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with water, dried and evaporated. There are obtained 3.2 g of N-[[o-(methoxycarbonyl)phenyl]sulfonyl]-3-(p-nitrophenyl)-D-alanine.

reactant | p-nitro-D-phenylalanine | 2.3 g | [N+](=O)([O-])C1=CC=C(C[C@@H](N)C(=O)O)C=C1 | C9H10N2O4
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | sodium bicarbonate | 1.7 g | C([O-])(O)=O.[Na+]
reactant | methyl 2-chlorosulfonylbenzoate | 2.6 g | ClS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C8H7ClO4S
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | N-[[o-(methoxycarbonyl)phenyl]sulfonyl]-3-(p-nitrophenyl)-D-alanine | 3.2 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C17H16N2O8S
